US05637727
Using the same conditions described in Example 5, but using dichloromethane as the extraction solvent, 4-phenyl-2-butanone (22.2 g, 0.15 mole) yielded an orange oil; 1,2-epoxy-2-methyl-4-phenylbutane (19.8g, 72% yield of theory). 1H NMR (CDCl3 /TMS): δ 1.3(s,3H, CH3); 1.6-2.1(m, 2H), 2.-2.8(m, 4H); 6.8-7.4(m, 5H, aromatic H).

reactant | 4-phenyl-2-butanone | 0.15 mole, 22.2 g | C1(=CC=CC=C1)CCC(C)=O | C10H12O
reactant | dichloromethane | ClCCl | CH2Cl2
product | 1,2-epoxy-2-methyl-4-phenylbutane | 19.8g, 72% yield | O1CC1(CCC1=CC=CC=C1)C | C11H14O
